US06919355B2
e) 2-Oxo-1,5-dihydro-2H-oxazolo[4,5-f]indole-6-carboxylic acid
The title compound is prepared from methyl 2-oxo-1,5-dihydro-2H-oxazolo[4,5-f]indole-6-carboxylate according to the method described in Example 1/b. Mp.: 288-290° C. (water).

reactant | methyl 2-oxo-1,5-dihydro-2H-oxazolo[4,5-f]indole-6-carboxylate | O=C1OC=2C(=CC=3C=C(NC3C2)C(=O)OC)N1 | C11H8N2O4
solvent | water | O | H2O
product | 2-Oxo-1,5-dihydro-2H-oxazolo[4,5-f]indole-6-carboxylic acid | O=C1OC=2C(=CC=3C=C(NC3C2)C(=O)O)N1 | C10H6N2O4
